US07524846B2
1-{2-[(4-fluorobenzyl)amino]-1-[3-(trifluoromethyl)phenyl]ethyl}cyclohexanol dihydrochloride
In an analogous manner to Example 1, step 2 1-{2-[(4-fluorobenzyl)amino]-1-[3-(trifluoromethyl)phenyl]ethyl}cyclohexanol hydrochloride was prepared from N-(4-fluorobenzyl)-2-(1-hydroxycyclohexyl)-2-[3-(trifluoromethyl)phenyl]acetamide. MS (ESI) m/z 396 ([M+H]+); HRMS: calcd for C22H25F4NO.HCl, 431.1639; found (ESI), 396.1931.

reactant | 1-{2-[(4-fluorobenzyl)amino]-1-[3-(trifluoromethyl)phenyl]ethyl}cyclohexanol hydrochloride | Cl.FC1=CC=C(CNCC(C2=CC(=CC=C2)C(F)(F)F)C2(CCCCC2)O)C=C1
reactant | N-(4-fluorobenzyl)-2-(1-hydroxycyclohexyl)-2-[3-(trifluoromethyl)phenyl]acetamide | FC1=CC=C(CNC(C(C2=CC(=CC=C2)C(F)(F)F)C2(CCCCC2)O)=O)C=C1 | C22H23F4NO2
product | 1-{2-[(4-fluorobenzyl)amino]-1-[3-(trifluoromethyl)phenyl]ethyl}cyclohexanol dihydrochloride | Cl.Cl.FC1=CC=C(CNCC(C2=CC(=CC=C2)C(F)(F)F)C2(CCCCC2)O)C=C1 | InChI=1S/C22H25F4NO.2ClH/c23-19-9-7-16(8-10-19)14-27-15-20(21(28)11-2-1-3-12-21)17-5-4-6-18(13-17)22(24,25)26;;/h4-10,13,20,27-28H,1-3,11-12,14-15H2;2*1H
